US08071592B2
1-(2-{4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one 5-oxide Hydrochloride
1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one 5-oxide dihydrochloride (100 mg, 0.264 mmol) was stirred in chloroform (2 mL) plus methanol (0.1 mL), and triethylamine (0.130 mL) was added. After stirring for 10 minutes at room temperature 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 126(e)) (44 mg, 1 eq.) was added and the mixture was stirred at rt for a further 3 hours before addition of sodium triacetoxyborohydride (168 mg, 3 eq.). After a further 3 hours, saturated aqueous sodium hydrogen cabonate (1 ml) was added and the organic phase was diluted with DCM to bring the total volume to ca. 50 ml. The organic phase was separated using a hydrophobic frit and the aqueous phase was extracted with DCM (2×20 ml). The combined DCM extracts were evaporated under reduced pressure and purified by MDAP to give the free base of the title compound as a tan amorphous solid (39 mg).

reactant | 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one 5-oxide dihydrochloride | 0.264 mmol, 100 mg | Cl.Cl.NC1CCN(CC1)CCN1C(C=CC=2[N+](=CC(=CC12)F)[O-])=O
reactant | 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
reactant | sodium triacetoxyborohydride | 168 mg, 3 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen cabonate | 1 ml | C(O)([O-])=O.[Na+]
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.130 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 0.1 mL | CO | CH4O
product | 1-(2-{4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one 5-oxide Hydrochloride | 39 mg | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC=1[N+](=CC(=CC21)F)[O-])=O | InChI=1S/C23H26FN5O4.ClH/c24-16-11-20-19(29(31)15-16)1-2-23(30)28(20)8-7-27-5-3-17(4-6-27)25-13-18-12-21-22(14-26-18)33-10-9-32-21;/h1-2,11-12,14-15,17,25H,3-10,13H2;1H
